US06268444B1
Preparation of 1-(bromomethyl)-N-(1,1-dimethylethyl )-1,1-dimethylsilanamine, (19).
To a stirred solution of 10.00 g (53.32 mmol) of (bromomethyl)chlorodimethylsilane in 200 ml, of diethylether a solution of 7.80 g (106.64 mmol) of t-butyl amine in 10 mL of ether was added. A white solid deposited instantaneously. The reaction mixture was stirred overnight, filtered through a medium frit and the solvent was removed under reduced pressure to give 11.06 g of colorless liquid. Yield 93 percent.

reactant | (bromomethyl)chlorodimethylsilane | 53.32 mmol, 10.00 g | BrC[Si](C)(C)Cl | C3H8BrClSi
reactant | t-butyl amine | 106.64 mmol, 7.80 g | C(C)(C)(C)N | C4H11N
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | diethylether | C(C)OCC | C4H10O
product | 1-(bromomethyl)-N-(1,1-dimethylethyl )-1,1-dimethylsilanamine | 11.06 g, Yield 93 percent | BrC[Si](NC(C)(C)C)(C)C | C7H18BrNSi
